US05192799
Production of 6-hydroxycoumaran-3-one:-
Hydrogen chloride gas was blown into a mixture of 150 g (1.36 moles) of resorcinol, 800 ml of dry ether, 100 g (1.32 moles) of chloroacetonitrile and 100 g (0.73 mole) of zinc chloride for about 2 hours. Crystals which precipitated were obtained by decantation. The crystals were washed with ether and 1500 ml of water was added. The mixture was refluxed for 1 hour and then cooled. The crystals were collected by filtration. Potassium acetate (130 g; 1.33 moles) and 850 ml of ethanol were added to the crystals, and the mixture was refluxed for 30 minutes. After cooling, 1500 ml of water was added, and the crystals were collected by filtration to give 107 g of the desired product (yield 54%).

reactant | Hydrogen chloride | Cl | ClH
reactant | resorcinol | 1.36 moles, 150 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | chloroacetonitrile | 1.32 moles, 100 g | ClCC#N | C2H2ClN
reactant | Potassium acetate | 1.33 moles, 130 g | C(C)(=O)[O-].[K+]
catalyst | zinc chloride | 0.73 mole, 100 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 1500 ml | O | H2O
solvent | ethanol | 850 ml | C(C)O | C2H6O
solvent | ether | 800 ml | CCOCC | C4H10O
product | 6-hydroxycoumaran-3-one | 107 g, yield 54% | OC1=CC=C2C(COC2=C1)=O | C8H6O3
